US09326516B2
1-(2-Hydroxy-1-(4-methoxyphenyl)ethyl)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C17)
The title compound was prepared with 2-amino-2-(4-methoxyphenyl)ethanol and 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole and isolated as a white solid (1.42 g, quantitative): 1H NMR (300 MHz, CDCl3) δ 8.06 (s, 1H), 7.66 (d, J=8.3 Hz, 2H), 7.31 (d, J=8.5 Hz, 2H), 7.21 (d, J=8.1 Hz, 3H), 6.76 (d, J=8.3 Hz, 2H), 6.66 (s, 3H), 6.30 (d, J=8.2 Hz, 3H), 5.19-5.01 (m, 1H), 3.50-3.23 (m, 2H), 3.20 (s, 3H); ESIMS m/z 514 ([M+H]+).

reactant | 2-amino-2-(4-methoxyphenyl)ethanol | NC(CO)C1=CC=C(C=C1)OC | C9H13NO2
reactant | 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C16H9F3N4S
product | 1-(2-Hydroxy-1-(4-methoxyphenyl)ethyl)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | OCC(C1=CC=C(C=C1)OC)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C25H22F3N5O2S
